US07265149B2
e] [6-[5-(4-Trifluoromethyl-phenyl)-1H-pyrazol-3-ylmethoxy]-indol-1-yl]-acetic acid tert-butyl ester
A mixture of (6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester (37 mg, 0.15 mmol), 3-chloromethyl-5-(4-trifluoromethyl-phenyl)-1H-pyrazole (43 mg, 0.16 mmol), cesium carbonate (54 mg, 0.16 mmol) and a trace of potassium iodide were suspended in N,N-dimethylformamide (4 ml). The suspension was stirred at ambient temperature for 14 h and for 4 h at 80° C. The solvent was evaporated under reduced pressure and the residue dissolved in 1 N HCl/ice water 1/1 and ethyl acetate. The layers were separated and the aqueous layer was extracted two times with ethyl acetate. The combined organic layers were washed two times with brine and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography (silica gel, heptane/AcOEt) to give 5 mg (10 μmol, 7%) of the title compound as orange oil.

reactant | (6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester | 0.15 mmol, 37 mg | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C14H17NO3
reactant | 3-chloromethyl-5-(4-trifluoromethyl-phenyl)-1H-pyrazole | 0.16 mmol, 43 mg | ClCC1=NNC(=C1)C1=CC=C(C=C1)C(F)(F)F | C11H8ClF3N2
reactant | cesium carbonate | 0.16 mmol, 54 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | [6-[5-(4-Trifluoromethyl-phenyl)-1H-pyrazol-3-ylmethoxy]-indol-1-yl]-acetic acid tert-butyl ester | 10 μmol, 5 mg, 7% | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OCC1=NNC(=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C25H24F3N3O3
